US03959298
A solution of 5.0 g. of acetonine in 33.8 g. of methylethyl ketone was added with 6.2 g. of p-toluenesulfonic acid monohydrate under stirring. The mixture was stirred at room temperature for 8 hours to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 8 to obtain triacetonamine in a yield of 91.7%.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylethyl ketone | CC(=O)CC | C4H8O
product | triacetonamine | yield of 91.7% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
